US07135466B2
N-{3-Chloro-4-[(6,7-dimethoxy-4-quinolyl)oxy]phenyl}-N′-(4-cyclohexylbenzoyl)thiourea
Toluene (20 ml) and thionyl chloride (1 ml) were added to commercially available 4-cyclohexylbenzoic acid (80 mg), and the mixture was heated at 100° C. for one hr. The solvent was removed by distillation, and 4-cyclohexyl-1-benzenecarbonyl isothiocyanate was prepared using the resultant 4-cyclohexyl-1-benzenecarbonyl chloride as a starting compound according to the description of the literature. 3-Chloro-4-[(6,7-dimethoxy-4-quinolyl)oxy]aniline (50 mg) was dissolved in toluene (5 ml) and ethanol (1 ml) to prepare a solution. A solution of 4-cyclohexyl-1-benzenecarbonyl isothiocyanate in ethanol (1 ml) was then added to the solution, and the mixture was stirred at room temperature for 2 hr. The reaction solution was concentrated, and the residue was purified by chromatography on silica gel using chloroform/acetone for development to give the title compound (47 mg, yield 54%).

reactant | thionyl chloride | 1 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 4-cyclohexylbenzoic acid | 80 mg | C1(CCCCC1)C1=CC=C(C(=O)O)C=C1 | C13H16O2
reactant | 4-cyclohexyl-1-benzenecarbonyl chloride | C1(CCCCC1)C1=CC=C(C=C1)C(=O)Cl | C13H15ClO
reactant | 3-Chloro-4-[(6,7-dimethoxy-4-quinolyl)oxy]aniline | 50 mg | ClC=1C=C(N)C=CC1OC1=CC=NC2=CC(=C(C=C12)OC)OC | C17H15ClN2O3
reactant | 4-cyclohexyl-1-benzenecarbonyl isothiocyanate | C1(CCCCC1)C1=CC=C(C=C1)C(=O)N=C=S | C14H15NOS
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 1 ml | C(C)O | C2H6O
solvent | ethanol | 1 ml | C(C)O | C2H6O
solvent | Toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | N-{3-Chloro-4-[(6,7-dimethoxy-4-quinolyl)oxy]phenyl}-N′-(4-cyclohexylbenzoyl)thiourea | 47 mg, yield 54% | ClC=1C=C(C=CC1OC1=CC=NC2=CC(=C(C=C12)OC)OC)NC(=S)NC(C1=CC=C(C=C1)C1CCCCC1)=O | C31H30ClN3O4S
